US07612075B2
(3S,5R)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazin-2-one
The major epimer is assigned as (3S, 5S)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazin-2-one trifluoroacetic acid salt (30.8 mg) and is isolated as a yellow solid with a melting point of 69-72° C. C22H24ClN5OS MS m/z: 442, 444. The minor epimer is assigned as (3S, 5R)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazin-2-one trifluoroacetic acid salt (13.1 mg) with a melting point of 67-70° C. C22H24ClN5OS MS m/z: 442, 444. 1H NMR (CD3OD) δ: 8.67 (s, 1H); 8.31 (d, 1H, J=8.56 Hz); 7.83 (s, 1H); 7.74 (d, 2H, J=8.56 Hz); 7.14 (d, 1H, J=15.6 Hz); 6.92 (d, 1H, J=3.74 Hz); 6.10-6.03 (m, 1H); 5.0-4.74 (m, 2H); 4.25-3.63 (m, 6H); 1.78 (d, 3H, J=7.03 Hz); 1.50 (d, 3H, J=6.47 Hz).

reactant | (3S, 5S)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazin-2-one trifluoroacetic acid salt | 30.8 mg | FC(C(=O)O)(F)F.NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N([C@H](C1)C)CC=CC=1SC(=CC1)Cl)C)=O
reactant | (3S, 5R)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazin-2-one trifluoroacetic acid salt | 13.1 mg | FC(C(=O)O)(F)F.NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N([C@@H](C1)C)CC=CC=1SC(=CC1)Cl)C)=O
product | (3S,5R)-1-(4-Amino-quinazolin-7-ylmethyl)-4-[3-(5-chloro-thiophen-2-yl)-allyl]-3,5-dimethyl-piperazin-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N([C@@H](C1)C)CC=CC=1SC(=CC1)Cl)C)=O | C22H24ClN5OS
